US04010279
4-[2-(3,4-Dimethoxy-benzamido)-ethyl]-4'-hydroxy-biphenyl was prepared analogous to Example I from 4-[2-amino-ethyl]-4'-hydroxy-biphenyl and 3,4-dimethoxybenzoyl chloride. Yield: 60% of theory; m.p. 170° C.

reactant | 4-[2-amino-ethyl]-4'-hydroxy-biphenyl | NCCC1=CC=C(C=C1)C1=CC=C(C=C1)O | C14H15NO
reactant | 3,4-dimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
product | 4-[2-(3,4-Dimethoxy-benzamido)-ethyl]-4'-hydroxy-biphenyl | Yield: 60% | COC=1C=C(C(=O)NCCC2=CC=C(C=C2)C2=CC=C(C=C2)O)C=CC1OC | C23H23NO4
